US06528525B1
(e) Ethyl 2-methyl-2-(3-phenylpropyl)-3-[4-[2-(tetrahydropyran-2-yloxy)ethoxy]phenyl]propionate
In a similar manner to that described in Reference example 3(e), a reaction was carried out using ethyl 2-(4-hydroxybenzyl)-2-methyl-5-phenylvalerate (1.58 g), which is the product of Reference example 7(d), 2-(2-bromoethoxy)tetrahydropyran (0.94 g) and potassium carbonate (1.86 g) in dimethylacetamide and the reaction mixture was treated to afford the desired compound (1.64 g) as a syrup.

reactant | ethyl 2-(4-hydroxybenzyl)-2-methyl-5-phenylvalerate | 1.58 g | OC1=CC=C(CC(C(=O)OCC)(CCCC2=CC=CC=C2)C)C=C1 | C21H26O3
reactant | 2-(2-bromoethoxy)tetrahydropyran | 0.94 g | BrCCOC1OCCCC1 | C7H13BrO2
reactant | potassium carbonate | 1.86 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylacetamide | CC(=O)N(C)C | C4H9NO
product | Ethyl 2-methyl-2-(3-phenylpropyl)-3-[4-[2-(tetrahydropyran-2-yloxy)ethoxy]phenyl]propionate | 1.64 g | CC(C(=O)OCC)(CC1=CC=C(C=C1)OCCOC1OCCCC1)CCCC1=CC=CC=C1 | C28H38O5
